* source 3410LAB4
R_R2         N00264 N00268 150k
R_R3         N00268 0 5.6k
R_R4         N00264 N01993 680
R_R5         N01429 0 470
R_R6         N00250 0 1.2k
V_V3         N00264 0 15Vdc
J_J1         N01993 N00268 N01429 J2N3819 
C_C5         N01993 N00250  47n  TC=0,0 
C_C6         0 N01429  47n  TC=0,0 
R_R1         N024250 N02453 51
C_C4         N024250 N00268  22n  TC=0,0 
V_V2         N02453 0  AC 0
+SIN 160m 60m 100k 0 0 0
