* source LAB 5
R_R1         N00292 N00305  200 TC=0,0 
R_R2         N00545 N00305  300 TC=0,0 
R_R3         0 N00292  100 TC=0,0 
R_R4         0 N00461  500 TC=0,0 
R_R5         N001111 N00283  240 TC=0,0 
R_R6         N00305 N00329  150 TC=0,0 
R_R7         N00452 0  5k TC=0,0 
R_R8         N00333 0  1.2k TC=0,0 
C_C1         N001111 N00292  .1u  TC=0,0 
C_C2         N00329 N00333  .1u  TC=0,0 
C_C3         0 N00452  .1u  TC=0,0 
C_C4         0 N00461  .1u  TC=0,0 
V_V1         N00283 0  AC 0
+SIN 0 10m 50k 0 0 0
X_M1         N00545 N00292 N00461 2N7000/FAI
X_M2         N00329 N00545 N00452 2N7000/FAI
V_V2         N00305 0 15
V_V3         N02541 0 15
R_R15         0 N03557  500 TC=0,0 
R_R10         N02541 N02655  150 TC=0,0 
X_M4         N02651 N02697 N03557 2N7000/FAI
R_R9         N02651 N02541  300 TC=0,0 
R_R11         N02697 N02541  200 TC=0,0 
X_M3         N02655 N02651 N02769 2N7000/FAI
R_R14         0 N02697  100 TC=0,0 
R_R13         N02769 0  5k TC=0,0 
