* source LAB 6
R_R1         N00230 N00306  1k TC=0,0 
R_R2         N00306 N00348  100k TC=0,0 
C_C1         N00306 N00348  100p  TC=0,0 
V_V2         N00224 0 15Vdc
V_V3         0 N00253 15Vdc
X_U1         0 N00306 N00224 N00253 N00348 LM741
V_V4         N00230 0  
+PULSE 100m -100m 0 5us 5us 0 10us
